US05017211
A solution of 0.54 g of sodium methylate in 5 ml of methanol is added dropwise to a suspension of 4.14 g of N-methoxy-N-methyl-2-chloro-5-[2-chloro-4-oxo-6-trifluoromethyl-3(4H)-pyrimidinyl]-4-fluorobenzamide in 25 ml of methanol and the reaction mixture is stirred for 10 minutes. The mixture is then treated with 30 ml of ethyl acetate as well as 50 ml of n-hexane, filtered and the filtrate is evaporated. The resulting colourless, viscous crude product crystallizes from diethyl ether/n-hexane. There is obtained N-methoxy-N-methyl-2-chloro-4-fluoro-5-[2-methoxy-4-oxo-6-trifluoromethyl-3(4H)-pyrimidinyl]-benzamide, m.p. 119° C.

reactant | sodium methylate | 0.54 g | C[O-].[Na+]
reactant | N-methoxy-N-methyl-2-chloro-5-[2-chloro-4-oxo-6-trifluoromethyl-3(4H)-pyrimidinyl]-4-fluorobenzamide | 4.14 g | CON(C(C1=C(C=C(C(=C1)N1C(=NC(=CC1=O)C(F)(F)F)Cl)F)Cl)=O)C | C14H9Cl2F4N3O3
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | n-hexane | 50 ml | CCCCCC | C6H14
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | N-methoxy-N-methyl-2-chloro-4-fluoro-5-[2-methoxy-4-oxo-6-trifluoromethyl-3(4H)-pyrimidinyl]-benzamide | CON(C(C1=C(C=C(C(=C1)N1C(=NC(=CC1=O)C(F)(F)F)OC)F)Cl)=O)C | C15H12ClF4N3O4
